US04182769
To a stirred suspension of 5.9 g (0.015 mole) of 1-benzenesulfonyl-4,5-bis(4-fluorophenyl)imidazole and 1.9 g (0.016 mole) of tetramethylethylenediamine in 75 ml ether, at -78° under nitrogen, was added dropwise a solution of 10 ml (0.016 mole) of 1.6 M n-butyl lithium solution in 30 ml ether. The mixture was stirred another fifteen minutes at -78°, then a solution of 3.3 g (0.016 mole) of trifluoromethyl disulfide in 25 ml ether was added dropwise. The mixture was stirred at -78° for one hour, then at room temperature for one hour. Cautiously, a few ml of saturated sodium bicarbonate solution was added, then the entire reaction mixture was poured into a separatory funnel containing 200 ml water and 50 ml saturated sodium bicarbonate solution. The aqueous mixture was extracted several times with ether and the combined ether extracts were dried and concentrated to give crude product. This was purified by chromatography on silica gel, eluting with toluene, to give 2.7 g of 1-benzenesulfonyl-4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)imidazole as white crystals (from methylcyclohexane/hexane), mp 154°-5°.

reactant | 1-benzenesulfonyl-4,5-bis(4-fluorophenyl)imidazole | 0.015 mole, 5.9 g | C1(=CC=CC=C1)S(=O)(=O)N1C=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C21H14F2N2O2S
reactant | tetramethylethylenediamine | 0.016 mole, 1.9 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 0.016 mole, 1.6 M, 10 ml | C(CCC)[Li]
reactant | trifluoromethyl disulfide | 0.016 mole, 3.3 g | FC(F)(F)SSC(F)(F)F | C2F6S2
reactant | sodium bicarbonate | ml | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 1-benzenesulfonyl-4,5-bis(4-fluorophenyl)-2-(trifluoromethylthio)imidazole | 2.7 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC(=C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)SC(F)(F)F | C22H13F5N2O2S2
